US05922727
1-[(5-Hydroxymethylcyclopent-1-en-1-yl) methyl]-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione and (5-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide were reacted by the same with the example 10 to obtain the titled compound.

reactant | 5-Ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | (5-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide | [Si](C)(C)(C(C)(C)C)OCC1CCC=C1CBr | C13H25BrOSi
product | 1-[(5-Hydroxymethylcyclopent-1-en-1-yl) methyl]-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | Yield(%): 22.7 | OCC1CCC=C1CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C21H26N2O3S
